US05614527
To a suspension of 0.20 g of sodium hydride (60%, oily) in 30 ml of acetonitrile was added a solution of 1.00 g of 1-[(2-methyl-4-tetrahydrofuryl)methyl]-2-(nitroimino) hexahydropyrimidine in 5 ml of acetonitrile at room temperature, followed by stirring for 30 minutes. Next, to the mixture was added a solution of 0.39 g of acetyl chloride in 5 ml of acetonitrile under ice-cooling, and the mixture was then stirred under ice-cooling for 30 minutes and at room temperature for 3 hours. Afterward, insolubles were removed by filtration, and the filtrate was then concentrated under a reduced pressure. The resultant oily substance was purified by silica gel column chromatography (20:1 chloroform/methanol) to obtain 1.15 g of 1-(methylcarbonyl)-3-[(2-methyl-4-tetrahydrofuryl) methyl]-2-(nitroimino)hexahydropyrimidine as a yellow oil.

reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | 1-[(2-methyl-4-tetrahydrofuryl)methyl]-2-(nitroimino) hexahydropyrimidine | 1.00 g | CC1OCC(C1)CN1C(NCCC1)=N[N+](=O)[O-] | C10H18N4O3
reactant | acetyl chloride | 0.39 g | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-(methylcarbonyl)-3-[(2-methyl-4-tetrahydrofuryl) methyl]-2-(nitroimino)hexahydropyrimidine | 1.15 g | CC(=O)N1C(N(CCC1)CC1CC(OC1)C)=N[N+](=O)[O-] | C12H20N4O4
